US05932571
Combine 2-chloro-1-(2-ethoxyethyl)-1H-benzimidazole (22.3 g, 99.4 mmol), 1-methyl[1,4]diazepane (19 mL, 152.8 mmol), and triethylamine (75 mL). Heat to 70° C. After 18 hours, add 1-methyl[1,4]diazepane (10 mL) and continue to heat at reflux. After 96 hours, cool to ambient temperature and partition the reaction mixture between water and ethyl acetate. Separate the layers and extract the organic layer with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 50% ethyl acetate/hexane and then 10% methanol/dichloromethane to give 1-methyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.52 (silica gel, dichloromethane/methanol/concentrated aqueous ammonia, 90/10/0.1).

reactant | 2-chloro-1-(2-ethoxyethyl)-1H-benzimidazole | 99.4 mmol, 22.3 g | ClC1=NC2=C(N1CCOCC)C=CC=C2 | C11H13ClN2O
reactant | 1-methyl[1,4]diazepane | 152.8 mmol, 19 mL | CN1CCNCCC1 | C6H14N2
reactant | triethylamine | 75 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl[1,4]diazepane | 10 mL | CN1CCNCCC1 | C6H14N2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol dichloromethane | CO.ClCCl
product | 1-methyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | CN1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C17H26N4O
